// Aim  : Plot transfer characteristic of inverter NMOS with varying vdd

.title NMOS_inverter_Transfer_Characteristic_65nm_U24EC025
.include cmos_65nm.txt

m1 d_out g 0 0 nmos w=200nm l= 65nm
m2 Vdd g d_out Vdd pmos w=500nm l= 65nm
vgs g 0 0.2
VDD vdd 0 0.2

.dc vgs 0 0.2 0.02

.control
set color0 = white
set color1 = black
set xbrushwidth = 3
set hcopydevtype = svg
run
plot v(d_out) v(g) xlabel 'Transfer Characteristic for CMOS 65nm for 0.2 VDD'


* 1. Calculate the derivative (slope) of Vout vs Vin
let derivative = deriv(v(d_out))

* 2. Find VIL: The first point where slope = -1
meas dc vil when derivative=-1 cross=1

* 3. Find VIH: The last point where slope = -1
meas dc vih when derivative=-1 cross=last

* 4. Define VOH and VOL (Assuming rail-to-rail)
let voh = 0.2
let vol = 0

* 5. Calculate Margins
let nml = vil - vol
let nmh = voh - vih

echo "--------------------------------------"
echo "CMOS Inverter Noise Margin Results:"
echo "VIL = $&vil V"
echo "VIH = $&vih V"
echo "NM_Low  (VIL - VOL) = $&nml V"
echo "NM_High (VOH - VIH) = $&nmh V"
echo "--------------------------------------"
.endc
.end
